US07790751B2
A solution of 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester (3.1 g, 5.7 mmol) in ethyl acetate was treated sequentially with ethanol and tin (II) chloride dihydrate (20.2 g, 89.5 mmol), stirred at 75° C., under nitrogen, for 2 hours, 20 minutes, poured into excess water and extracted with ethyl acetate. The combined extracts were washed sequentially with 2.5 N sodium hydroxide and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo for 20 minutes at 80° C. to yield 3-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester as a yellow solid, 2.37 g (82% yield), mp 162-4° C.; Mass spectrum (+EI, [M+H]+) m/z 517. 1HNMR (500 MHz, DMSO-d6): δ8.60-8.63 (m, 1H), 8.26 (dd, 1H, J=12.81 Hz and 8.23 Hz), 8.03-8.08 (m, 2H), 7.58-7.72 (m, 3H), 7.27-7.40 (m, 5H), 6.56-6.61 (m, 2H), 6.06 (s, 1H), 5.03-5.09 (m, 2H), 4.72 (s, 2H), 4.67 (s, 2H), 4.30 (s, 1H), 3.32-3.42 (m, 2H), 3.15-3.21 (m, 2H), 1.74-1.81 (m, 1H), 1.66-1.63 ppm (m, 1H).

reactant | 3-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester | 5.7 mmol, 3.1 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H26N2O7S
reactant | ethanol | C(C)O | C2H6O
reactant | tin (II) chloride dihydrate | 89.5 mmol, 20.2 g | O.O.[Sn](Cl)Cl
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-amino-3-(naphthalene-1-sulfonylmethyl)-phenoxy]-pyrrolidine-1-carboxylic acid benzyl ester | 82% yield | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)OC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H28N2O5S
